US07528134B2
N-(2-methylphenyl)-2-[4-(2-pyridinyl)-1-piperazinyl]acetamide
A mixture of 1-pyridin-2-ylpiperazine (24 mg, 0.15 mmol, Aldrich), N-(2-methyl-phenyl)-2-chloroacetamide (37 mg, 0.20 mmol, Maybridge) and sodium carbonate (50 mg) in N,N-dimethylformamide/water (2:1, 2 mL) was shaken at room temperature for 18 hours. The resulting mixture was decanted, concentrated under reduced pressure and the residue purified by preparative HPLC to provide 29.3 mg (63%) of the desired product. 1H NMR (500 MHz, DMSO-d6) δ 2.23 (s, 3H), 2.62 (t, J=4 Hz, 4H), 3.20 (s, 2H), 3.58 (t, J=4 Hz, 4H), 6.63 (t, J=5 Hz, 1H), 6.83 (d, J=6 Hz, 1H), 7.05 (t, J=6 Hz, 1H), 7.10 (m, 2H), 7.58 (t, J=5 Hz, 1H), 7.78 (d, J=6 Hz, 1H), 8.12 (d, J=5 Hz, 1H), 9.40 (s, 1H); MS (ESI/APCI+) m/e 311 (M+H)+.

reactant | 1-pyridin-2-ylpiperazine | 0.15 mmol, 24 mg | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
reactant | N-(2-methyl-phenyl)-2-chloroacetamide | 0.20 mmol, 37 mg | CC1=C(C=CC=C1)NC(CCl)=O | C9H10ClNO
reactant | sodium carbonate | 50 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide water | 2 mL | CN(C=O)C.O
product | N-(2-methylphenyl)-2-[4-(2-pyridinyl)-1-piperazinyl]acetamide | 29.3 mg, 63% | CC1=C(C=CC=C1)NC(CN1CCN(CC1)C1=NC=CC=C1)=O | C18H22N4O
